US04994486
Step 4: 4-(2'-Methoxyphenyl)-3-phenylbutyric acid
Ethyl 4-(2'-methoxyphenyl)-3-phenylbutyrate (5.7 g, 19 mmol), from Step 3, was dissolved in 25 mL of methanol and 14 mL of 50% aqueous sodium hydroxide solution was added in one portion. The reaction mixture was stirred at ambient temperature for 18 h. The reaction mixture was concentrated and the residue was partitioned between 100 mL of diethyl ether and 100 mL of water. The layers were separated and the aqueous layer was adjusted to pH 6 with 6M aqueous hydrochloric acid solution and extracted with 3×100 mL of diethyl ether. The organic layers were combined, washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give 5.1 g (99% yield) of the title compound as a colorless oil. The 1H NMR spectrum was identical to the spectrum reported for the product of Step 5 of Method A, Example 1.

reactant | Ethyl 4-(2'-methoxyphenyl)-3-phenylbutyrate | 19 mmol, 5.7 g | COC1=C(C=CC=C1)CC(CC(=O)OCC)C1=CC=CC=C1 | C19H22O3
reactant | sodium hydroxide | 14 mL | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | 4-(2'-Methoxyphenyl)-3-phenylbutyric acid | 5.1 g, 99% yield | COC1=C(C=CC=C1)CC(CC(=O)O)C1=CC=CC=C1 | C17H18O3
